US07595397B2
2-Phenyl-4-(2′-trifluoromethyl-biphenyl-4-ylmethyl)-piperazine-1-carboxylic acid methylamide
This compound was made in the following manner: 55 mg of 3-phenyl-1-(2′-trifluoromethyl-biphenyl-4-ylmethyl)-piperazine was dissolved in THF, 2 equiv. methylisocyanate were added. The reaction was shaken at room temperature overnight. The solvent was removed in vacuo, the residue was dissolved in DCM, washed with 1M aqueous sodium hydroxide solution, then dried over sodium sulfate, filtered and concentrated in vacuo. The crude residue was purified by column chromatography to afford the title compound as free base. Addition of 1 equiv. of 1M HCl in dioxane and concentratation in vacuo afforded 33 mg of the title compound as hydrochloride salt. Yield 48% ES MS m/z 454

reactant | 3-phenyl-1-(2′-trifluoromethyl-biphenyl-4-ylmethyl)-piperazine | 55 mg | C1(=CC=CC=C1)C1CN(CCN1)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(F)(F)F | C24H23F3N2
reactant | methylisocyanate | 2 equiv. | CN=C=O | C2H3NO
solvent | THF | C1CCOC1 | C4H8O
product | 2-Phenyl-4-(2′-trifluoromethyl-biphenyl-4-ylmethyl)-piperazine-1-carboxylic acid methylamide | CNC(=O)N1C(CN(CC1)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(F)(F)F)C1=CC=CC=C1 | C26H26F3N3O
